US04801717
3-ethyl-fluorobenzene was reacted with nitric acid to obtain 4-nitro-3-ethyl-fluorobenzene which was reacted with N-hydroxy-phthalimide to form 0-(4-nitro-3-ethyl-phenoxy)-phthalimide which was reacted to form 0-(4-nitro-3-ethylphenyl)-hydroxylamine melting at 55°-56° C.

reactant | 3-ethyl-fluorobenzene | C(C)C=1C=C(C=CC1)F | C8H9F
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4-nitro-3-ethyl-fluorobenzene | [N+](=O)([O-])C1=C(C=C(C=C1)F)CC | C8H8FNO2
